US06384080B1
Methanesulfonyl chloride (54 mg) and triethylamine (48 mg) were added to a solution of 2-(trans-4-aminocyclohexylamino)-N-(3,4-dimethoxybenzyl)-5-nitrobenzamide (134 mg) in chloroform (2 mL). The mixture was stirred for an hour at ambient temperature. Methanesulfonyl chloride (54 mg) and triethylamine (48 mg) were added to the reaction mixture. After stirring for an hour at ambient temperature, the mixture was concentrated in vacuo. The residue was partitioned between ethyl acetate and 3.6% hydrochloric acid. The separated organic layer was washed with an saturated aqueous sodium bicarbonate solution and brine, dried over magnesium sulfate and concentrated in vacuo. The residual crystals were suspended in hot ethanol and cooled with stirring. The resultant was collected by filtration and washed with ethanol to give N-(3,4-dimethoxybenzyl)-2-[trans-4-(methanesulfonylamino)cyclohexylamino]-5-nitrobenzamide (142 mg) as yellow crystals.

reactant | Methanesulfonyl chloride | 54 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 48 mg | C(C)N(CC)CC | C6H15N
reactant | 2-(trans-4-aminocyclohexylamino)-N-(3,4-dimethoxybenzyl)-5-nitrobenzamide | 134 mg | N[C@@H]1CC[C@H](CC1)NC1=C(C(=O)NCC2=CC(=C(C=C2)OC)OC)C=C(C=C1)[N+](=O)[O-] | C22H28N4O5
reactant | Methanesulfonyl chloride | 54 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 48 mg | C(C)N(CC)CC | C6H15N
solvent | chloroform | 2 mL | C(Cl)(Cl)Cl | CHCl3
product | N-(3,4-dimethoxybenzyl)-2-[trans-4-(methanesulfonylamino)cyclohexylamino]-5-nitrobenzamide | 142 mg | COC=1C=C(CNC(C2=C(C=CC(=C2)[N+](=O)[O-])N[C@@H]2CC[C@H](CC2)NS(=O)(=O)C)=O)C=CC1OC | C23H30N4O7S
